US04225722
9-Hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde
Prepared by refluxing 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate (20.0 g, 0.071 m) in formic acid (250 ml, 88%) for 18 hrs. The product which crystallizes on cooling is filtered, washed with water, with acetone and sucked dry. The crystals are red-brown (16.0 g, 94%), m.p. dec>270° C.

reactant | 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate | 20.0 g | C(C)(=O)O.OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C=O
solvent | formic acid | 250 ml | C(=O)O | CH2O2
product | 9-Hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde | OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C=O | C14H8O4
